US04874877
(R)-4-(Methylthio)-2-(methanesulfonyloxy)-butyl Methanesulfonate
(R)-4-(Methylthio)-1,2-butanediol (0.47 g, 3.4 mmol) was dissolved in 5 ml of pyridine and cooled to 0° C. Methanesulfonyl chloride (0.66 ml, 8.5 mmol) was added and the mixture stirred for 2 hours while warming to room temperature, by which time tlc (ethyl acetate) indicated complete conversion of starting material (Rf 0.4) to title product (Rf 0.85). The reaction mixture was diluted with 10 ml H2O and extracted 2×15 ml of ethyl acetate. The organic layers were combined, dried (MgSO4) and stripped to in vacuo to yield title product an an oil, all of which was used in the next step; tlc Rf 0.85 (ethyl acetate).

reactant | (R)-4-(Methylthio)-1,2-butanediol | 3.4 mmol, 0.47 g | CSCC[C@H](CO)O | C5H12O2S
reactant | Methanesulfonyl chloride | 8.5 mmol, 0.66 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (R)-4-(Methylthio)-2-(methanesulfonyloxy)-butyl Methanesulfonate | CS(=O)(=O)OC[C@@H](CCSC)OS(=O)(=O)C | C7H16O6S3
